US09084794B2
b) (+)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetamide
To a solution of 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (214 mg, 0.5 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (127 mg, 0.5 mmol) and 2M aq K2CO3 (0.55 mL, 1.1 mmol) in 1,4-dioxane (2.5 mL) was added PdCl2(dppf)-CH2Cl2 adduct (20.4 mg, 0.025 mmol). The reaction mixture was purged with nitrogen and the vessel was sealed and irradiated in the microwave at 110° C. for 25 min, at which point the reaction had proceeded to completion. The reaction mixture was diluted with ethyl acetate (25 mL) and washed with 5 mL of 1M aq HCl. The organic phase was then washed with brine (5 mL), dried over anhydrous sodium sulfate, filtered through a pad of celite, and concentrated in vacuo. Purification of the residue by reverse phase HPLC (5-65% acetonitrile:water with 0.1% NH4OH) afforded the title product as a racemate, which was resolved by chiral HPLC (Chromegachiral CC4, methanol) to yield the title product in >98% ee (31 mg, 13%). αD=+21 deg (c=0.06, methanol); MS(ES)+ m/e 477 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 1.13 (t, J=7.20 Hz, 3 H) 1.65-1.74 (m, 1 H) 1.75-1.80 (m, 1 H) 1.89-2.01 (m, 2 H) 2.31-2.41 (m, 1 H) 2.58-2.70 (m, 2 H) 2.78 (br. s., 1 H) 3.19 (s, 2 H) 3.41 (q, J=7.33 Hz, 2 H) 3.97-4.08 (m, 2 H) 4.54 (s, 1 H) 5.65 (br. s., 1 H) 7.27 (br. s., 1 H) 7.43-7.48 (m, 2 H) 7.55 (d, J=1.77 Hz, 1 H) 7.64 (dd, J=7.96, 1.89 Hz, 1 H) 7.87 (dd, J=8.59, 2.02 Hz, 1 H) 7.98 (d, J=8.59 Hz, 1 H) 8.25 (dd, J=8.34, 1.01 Hz, 1 H) 8.36 (d, J=1.77 Hz, 1 H) 8.97 (dd, J=4.04, 1.77 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.5 mmol, 214 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)CC)CC1)F | C18H23BrFN3O3
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.5 mmol, 127 mg | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | K2CO3 | 1.1 mmol, 2M, 0.55 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.025 mmol, 20.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetamide | C(C)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C27H29FN4O3
